US07253286B2
tert-Butyl4-(2-{[4-(4-amino-3-chlorophenoxy)-2-pyridyl]amino}-2-oxoethyl)-1-piperidinecarboxylate
2-Amino-4-(4-amino-3-chlorophenoxy)pyridine (1.0 g), Bop reagent (1.9 g), triethylamine (1.2 ml), 2-[1-(tert-butoxycarbonyl)-4-piperidyl]acetic acid (1.0 g) and dimethylformamide (10 ml) were stirred at 60° C. for 2 hours and then at room temperature for 18 hours. Water was added to the reaction solution, and extraction was performed with ethyl acetate. Silica gel was added to the extract solution and the solvent was distilled off under reduced pressure. The silica gel was charged into a dry column packed with silica gel, and purification was performed by column chromatography (hexane:ethyl acetate=1:1) to obtain 570 mg of a light brown oil.

reactant | 2-Amino-4-(4-amino-3-chlorophenoxy)pyridine | 1.0 g | NC1=NC=CC(=C1)OC1=CC(=C(C=C1)N)Cl | C11H10ClN3O
reactant | Bop reagent | 1.9 g | CN(C)[P+](N(C)C)(N(C)C)ON1C2=C(C=CC=C2)N=N1.F[P-](F)(F)(F)(F)F
reactant | triethylamine | 1.2 ml | C(C)N(CC)CC | C6H15N
reactant | 2-[1-(tert-butoxycarbonyl)-4-piperidyl]acetic acid | 1.0 g | C(C)(C)(C)OC(=O)N1CCC(CC1)CC(=O)O | C12H21NO4
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | Water | O | H2O
solvent | dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
product | tert-Butyl4-(2-{[4-(4-amino-3-chlorophenoxy)-2-pyridyl]amino}-2-oxoethyl)-1-piperidinecarboxylate | 570 mg | C(C)(C)(C)OC(=O)N1CCC(CC1)CC(=O)NC1=NC=CC(=C1)OC1=CC(=C(C=C1)N)Cl | C23H29ClN4O4
